* NGSPICE file created from user_project_wrapper.ext - technology: sky130A

.subckt sky130_fd_sc_hd__conb_1 LO HI VPB VNB VGND VPWR
RX0 VPWR HI sky130_fd_pr__res_generic_po w=0.48 l=0.045
RX1 LO VGND sky130_fd_pr__res_generic_po w=0.48 l=0.045
.ends

* Black-box entry subcircuit for ucb_top abstract view
.subckt ucb_top VGND VPWR clk reward_arm[0] reward_arm[1] reward_arm[2] reward_arm[3]
+ reward_arm[4] reward_arm[5] reward_val[0] reward_val[10] reward_val[11] reward_val[12]
+ reward_val[13] reward_val[14] reward_val[15] reward_val[1] reward_val[2] reward_val[3]
+ reward_val[4] reward_val[5] reward_val[6] reward_val[7] reward_val[8] reward_val[9]
+ reward_valid rst_n selected_arm[0] selected_arm[1] selected_arm[2] selected_arm[3]
+ selected_arm[4] selected_arm[5] start valid_out
.ends

.subckt user_project_wrapper analog_io[0] analog_io[10] analog_io[11] analog_io[12]
+ analog_io[13] analog_io[14] analog_io[15] analog_io[16] analog_io[17] analog_io[18]
+ analog_io[19] analog_io[1] analog_io[20] analog_io[21] analog_io[22] analog_io[23]
+ analog_io[24] analog_io[25] analog_io[26] analog_io[27] analog_io[28] analog_io[2]
+ analog_io[3] analog_io[4] analog_io[5] analog_io[6] analog_io[7] analog_io[8] analog_io[9]
+ io_in[0] io_in[10] io_in[11] io_in[12] io_in[13] io_in[14] io_in[15] io_in[16] io_in[17]
+ io_in[18] io_in[19] io_in[1] io_in[20] io_in[21] io_in[22] io_in[23] io_in[24] io_in[25]
+ io_in[26] io_in[27] io_in[28] io_in[29] io_in[2] io_in[30] io_in[31] io_in[32] io_in[33]
+ io_in[34] io_in[35] io_in[36] io_in[37] io_in[3] io_in[4] io_in[5] io_in[6] io_in[7]
+ io_in[8] io_in[9] io_oeb[0] io_oeb[10] io_oeb[11] io_oeb[12] io_oeb[13] io_oeb[14]
+ io_oeb[15] io_oeb[16] io_oeb[17] io_oeb[18] io_oeb[19] io_oeb[1] io_oeb[20] io_oeb[21]
+ io_oeb[22] io_oeb[23] io_oeb[24] io_oeb[25] io_oeb[26] io_oeb[27] io_oeb[28] io_oeb[29]
+ io_oeb[2] io_oeb[30] io_oeb[31] io_oeb[32] io_oeb[33] io_oeb[34] io_oeb[35] io_oeb[36]
+ io_oeb[37] io_oeb[3] io_oeb[4] io_oeb[5] io_oeb[6] io_oeb[7] io_oeb[8] io_oeb[9]
+ io_out[0] io_out[10] io_out[11] io_out[12] io_out[13] io_out[14] io_out[15] io_out[16]
+ io_out[17] io_out[18] io_out[19] io_out[1] io_out[20] io_out[21] io_out[22] io_out[23]
+ io_out[24] io_out[25] io_out[26] io_out[27] io_out[28] io_out[29] io_out[2] io_out[30]
+ io_out[31] io_out[32] io_out[33] io_out[34] io_out[35] io_out[36] io_out[37] io_out[3]
+ io_out[4] io_out[5] io_out[6] io_out[7] io_out[8] io_out[9] la_data_in[0] la_data_in[100]
+ la_data_in[101] la_data_in[102] la_data_in[103] la_data_in[104] la_data_in[105]
+ la_data_in[106] la_data_in[107] la_data_in[108] la_data_in[109] la_data_in[10] la_data_in[110]
+ la_data_in[111] la_data_in[112] la_data_in[113] la_data_in[114] la_data_in[115]
+ la_data_in[116] la_data_in[117] la_data_in[118] la_data_in[119] la_data_in[11] la_data_in[120]
+ la_data_in[121] la_data_in[122] la_data_in[123] la_data_in[124] la_data_in[125]
+ la_data_in[126] la_data_in[127] la_data_in[12] la_data_in[13] la_data_in[14] la_data_in[15]
+ la_data_in[16] la_data_in[17] la_data_in[18] la_data_in[19] la_data_in[1] la_data_in[20]
+ la_data_in[21] la_data_in[22] la_data_in[23] la_data_in[24] la_data_in[25] la_data_in[26]
+ la_data_in[27] la_data_in[28] la_data_in[29] la_data_in[2] la_data_in[30] la_data_in[31]
+ la_data_in[32] la_data_in[33] la_data_in[34] la_data_in[35] la_data_in[36] la_data_in[37]
+ la_data_in[38] la_data_in[39] la_data_in[3] la_data_in[40] la_data_in[41] la_data_in[42]
+ la_data_in[43] la_data_in[44] la_data_in[45] la_data_in[46] la_data_in[47] la_data_in[48]
+ la_data_in[49] la_data_in[4] la_data_in[50] la_data_in[51] la_data_in[52] la_data_in[53]
+ la_data_in[54] la_data_in[55] la_data_in[56] la_data_in[57] la_data_in[58] la_data_in[59]
+ la_data_in[5] la_data_in[60] la_data_in[61] la_data_in[62] la_data_in[63] la_data_in[64]
+ la_data_in[65] la_data_in[66] la_data_in[67] la_data_in[68] la_data_in[69] la_data_in[6]
+ la_data_in[70] la_data_in[71] la_data_in[72] la_data_in[73] la_data_in[74] la_data_in[75]
+ la_data_in[76] la_data_in[77] la_data_in[78] la_data_in[79] la_data_in[7] la_data_in[80]
+ la_data_in[81] la_data_in[82] la_data_in[83] la_data_in[84] la_data_in[85] la_data_in[86]
+ la_data_in[87] la_data_in[88] la_data_in[89] la_data_in[8] la_data_in[90] la_data_in[91]
+ la_data_in[92] la_data_in[93] la_data_in[94] la_data_in[95] la_data_in[96] la_data_in[97]
+ la_data_in[98] la_data_in[99] la_data_in[9] la_data_out[0] la_data_out[100] la_data_out[101]
+ la_data_out[102] la_data_out[103] la_data_out[104] la_data_out[105] la_data_out[106]
+ la_data_out[107] la_data_out[108] la_data_out[109] la_data_out[10] la_data_out[110]
+ la_data_out[111] la_data_out[112] la_data_out[113] la_data_out[114] la_data_out[115]
+ la_data_out[116] la_data_out[117] la_data_out[118] la_data_out[119] la_data_out[11]
+ la_data_out[120] la_data_out[121] la_data_out[122] la_data_out[123] la_data_out[124]
+ la_data_out[125] la_data_out[126] la_data_out[127] la_data_out[12] la_data_out[13]
+ la_data_out[14] la_data_out[15] la_data_out[16] la_data_out[17] la_data_out[18]
+ la_data_out[19] la_data_out[1] la_data_out[20] la_data_out[21] la_data_out[22] la_data_out[23]
+ la_data_out[24] la_data_out[25] la_data_out[26] la_data_out[27] la_data_out[28]
+ la_data_out[29] la_data_out[2] la_data_out[30] la_data_out[31] la_data_out[32] la_data_out[33]
+ la_data_out[34] la_data_out[35] la_data_out[36] la_data_out[37] la_data_out[38]
+ la_data_out[39] la_data_out[3] la_data_out[40] la_data_out[41] la_data_out[42] la_data_out[43]
+ la_data_out[44] la_data_out[45] la_data_out[46] la_data_out[47] la_data_out[48]
+ la_data_out[49] la_data_out[4] la_data_out[50] la_data_out[51] la_data_out[52] la_data_out[53]
+ la_data_out[54] la_data_out[55] la_data_out[56] la_data_out[57] la_data_out[58]
+ la_data_out[59] la_data_out[5] la_data_out[60] la_data_out[61] la_data_out[62] la_data_out[63]
+ la_data_out[64] la_data_out[65] la_data_out[66] la_data_out[67] la_data_out[68]
+ la_data_out[69] la_data_out[6] la_data_out[70] la_data_out[71] la_data_out[72] la_data_out[73]
+ la_data_out[74] la_data_out[75] la_data_out[76] la_data_out[77] la_data_out[78]
+ la_data_out[79] la_data_out[7] la_data_out[80] la_data_out[81] la_data_out[82] la_data_out[83]
+ la_data_out[84] la_data_out[85] la_data_out[86] la_data_out[87] la_data_out[88]
+ la_data_out[89] la_data_out[8] la_data_out[90] la_data_out[91] la_data_out[92] la_data_out[93]
+ la_data_out[94] la_data_out[95] la_data_out[96] la_data_out[97] la_data_out[98]
+ la_data_out[99] la_data_out[9] la_oenb[0] la_oenb[100] la_oenb[101] la_oenb[102]
+ la_oenb[103] la_oenb[104] la_oenb[105] la_oenb[106] la_oenb[107] la_oenb[108] la_oenb[109]
+ la_oenb[10] la_oenb[110] la_oenb[111] la_oenb[112] la_oenb[113] la_oenb[114] la_oenb[115]
+ la_oenb[116] la_oenb[117] la_oenb[118] la_oenb[119] la_oenb[11] la_oenb[120] la_oenb[121]
+ la_oenb[122] la_oenb[123] la_oenb[124] la_oenb[125] la_oenb[126] la_oenb[127] la_oenb[12]
+ la_oenb[13] la_oenb[14] la_oenb[15] la_oenb[16] la_oenb[17] la_oenb[18] la_oenb[19]
+ la_oenb[1] la_oenb[20] la_oenb[21] la_oenb[22] la_oenb[23] la_oenb[24] la_oenb[25]
+ la_oenb[26] la_oenb[27] la_oenb[28] la_oenb[29] la_oenb[2] la_oenb[30] la_oenb[31]
+ la_oenb[32] la_oenb[33] la_oenb[34] la_oenb[35] la_oenb[36] la_oenb[37] la_oenb[38]
+ la_oenb[39] la_oenb[3] la_oenb[40] la_oenb[41] la_oenb[42] la_oenb[43] la_oenb[44]
+ la_oenb[45] la_oenb[46] la_oenb[47] la_oenb[48] la_oenb[49] la_oenb[4] la_oenb[50]
+ la_oenb[51] la_oenb[52] la_oenb[53] la_oenb[54] la_oenb[55] la_oenb[56] la_oenb[57]
+ la_oenb[58] la_oenb[59] la_oenb[5] la_oenb[60] la_oenb[61] la_oenb[62] la_oenb[63]
+ la_oenb[64] la_oenb[65] la_oenb[66] la_oenb[67] la_oenb[68] la_oenb[69] la_oenb[6]
+ la_oenb[70] la_oenb[71] la_oenb[72] la_oenb[73] la_oenb[74] la_oenb[75] la_oenb[76]
+ la_oenb[77] la_oenb[78] la_oenb[79] la_oenb[7] la_oenb[80] la_oenb[81] la_oenb[82]
+ la_oenb[83] la_oenb[84] la_oenb[85] la_oenb[86] la_oenb[87] la_oenb[88] la_oenb[89]
+ la_oenb[8] la_oenb[90] la_oenb[91] la_oenb[92] la_oenb[93] la_oenb[94] la_oenb[95]
+ la_oenb[96] la_oenb[97] la_oenb[98] la_oenb[99] la_oenb[9] user_clock2 user_irq[0]
+ user_irq[1] user_irq[2] vccd1 vccd2 vdda1 vdda2 vssa1 vssa2 vssd1 vssd2 wb_clk_i
+ wb_rst_i wbs_ack_o wbs_adr_i[0] wbs_adr_i[10] wbs_adr_i[11] wbs_adr_i[12] wbs_adr_i[13]
+ wbs_adr_i[14] wbs_adr_i[15] wbs_adr_i[16] wbs_adr_i[17] wbs_adr_i[18] wbs_adr_i[19]
+ wbs_adr_i[1] wbs_adr_i[20] wbs_adr_i[21] wbs_adr_i[22] wbs_adr_i[23] wbs_adr_i[24]
+ wbs_adr_i[25] wbs_adr_i[26] wbs_adr_i[27] wbs_adr_i[28] wbs_adr_i[29] wbs_adr_i[2]
+ wbs_adr_i[30] wbs_adr_i[31] wbs_adr_i[3] wbs_adr_i[4] wbs_adr_i[5] wbs_adr_i[6]
+ wbs_adr_i[7] wbs_adr_i[8] wbs_adr_i[9] wbs_cyc_i wbs_dat_i[0] wbs_dat_i[10] wbs_dat_i[11]
+ wbs_dat_i[12] wbs_dat_i[13] wbs_dat_i[14] wbs_dat_i[15] wbs_dat_i[16] wbs_dat_i[17]
+ wbs_dat_i[18] wbs_dat_i[19] wbs_dat_i[1] wbs_dat_i[20] wbs_dat_i[21] wbs_dat_i[22]
+ wbs_dat_i[23] wbs_dat_i[24] wbs_dat_i[25] wbs_dat_i[26] wbs_dat_i[27] wbs_dat_i[28]
+ wbs_dat_i[29] wbs_dat_i[2] wbs_dat_i[30] wbs_dat_i[31] wbs_dat_i[3] wbs_dat_i[4]
+ wbs_dat_i[5] wbs_dat_i[6] wbs_dat_i[7] wbs_dat_i[8] wbs_dat_i[9] wbs_dat_o[0] wbs_dat_o[10]
+ wbs_dat_o[11] wbs_dat_o[12] wbs_dat_o[13] wbs_dat_o[14] wbs_dat_o[15] wbs_dat_o[16]
+ wbs_dat_o[17] wbs_dat_o[18] wbs_dat_o[19] wbs_dat_o[1] wbs_dat_o[20] wbs_dat_o[21]
+ wbs_dat_o[22] wbs_dat_o[23] wbs_dat_o[24] wbs_dat_o[25] wbs_dat_o[26] wbs_dat_o[27]
+ wbs_dat_o[28] wbs_dat_o[29] wbs_dat_o[2] wbs_dat_o[30] wbs_dat_o[31] wbs_dat_o[3]
+ wbs_dat_o[4] wbs_dat_o[5] wbs_dat_o[6] wbs_dat_o[7] wbs_dat_o[8] wbs_dat_o[9] wbs_sel_i[0]
+ wbs_sel_i[1] wbs_sel_i[2] wbs_sel_i[3] wbs_stb_i wbs_we_i
XTIE_ONE_one_ TIE_ONE_one_/LO io_oeb[9] TIE_ONE_one_/VPB VSUBS TIE_ONE_one_/VGND TIE_ONE_one_/VPWR
+ sky130_fd_sc_hd__conb_1
XTIE_ZERO_zero_ io_oeb[6] TIE_ZERO_zero_/HI TIE_ZERO_zero_/VPB VSUBS TIE_ZERO_zero_/VGND
+ TIE_ZERO_zero_/VPWR sky130_fd_sc_hd__conb_1
Xmprj mprj/VGND mprj/VPWR wb_clk_i la_data_in[2] la_data_in[3] la_data_in[4] la_data_in[5]
+ la_data_in[6] la_data_in[7] la_data_in[8] la_data_in[18] la_data_in[19] la_data_in[20]
+ la_data_in[21] la_data_in[22] la_data_in[23] la_data_in[9] la_data_in[10] la_data_in[11]
+ la_data_in[12] la_data_in[13] la_data_in[14] la_data_in[15] la_data_in[16] la_data_in[17]
+ la_data_in[1] la_data_in[127] io_out[0] io_out[1] io_out[2] io_out[3] io_out[4]
+ io_out[5] la_data_in[0] io_out[6] ucb_top
R0 io_oeb[9] io_oeb[18] short 0.000000
R1 io_oeb[9] io_oeb[29] short 0.000000
R2 io_oeb[6] io_oeb[0] short 0.000000
R3 io_oeb[9] io_oeb[17] short 0.000000
R4 io_oeb[9] io_oeb[28] short 0.000000
R5 io_oeb[9] io_oeb[8] short 0.000000
R6 io_oeb[9] io_oeb[16] short 0.000000
R7 io_oeb[9] io_oeb[27] short 0.000000
R8 io_oeb[9] io_oeb[7] short 0.000000
R9 io_oeb[9] io_oeb[15] short 0.000000
R10 io_oeb[9] io_oeb[26] short 0.000000
R11 io_oeb[9] io_oeb[37] short 0.000000
R12 io_oeb[9] io_oeb[14] short 0.000000
R13 io_oeb[9] io_oeb[25] short 0.000000
R14 io_oeb[9] io_oeb[36] short 0.000000
R15 io_oeb[9] io_oeb[13] short 0.000000
R16 io_oeb[9] io_oeb[23] short 0.000000
R17 io_oeb[9] io_oeb[24] short 0.000000
R18 io_oeb[9] io_oeb[34] short 0.000000
R19 io_oeb[9] io_oeb[35] short 0.000000
R20 io_oeb[6] io_oeb[5] short 0.000000
R21 io_oeb[9] io_oeb[33] short 0.000000
R22 io_oeb[6] io_oeb[4] short 0.000000
R23 io_oeb[6] io_oeb[3] short 0.000000
R24 io_oeb[9] io_oeb[12] short 0.000000
R25 io_oeb[9] io_oeb[10] short 0.000000
R26 io_oeb[9] io_oeb[11] short 0.000000
R27 io_oeb[9] io_oeb[21] short 0.000000
R28 io_oeb[9] io_oeb[22] short 0.000000
R29 io_oeb[9] io_oeb[32] short 0.000000
R30 io_oeb[9] io_oeb[20] short 0.000000
R31 io_oeb[9] io_oeb[31] short 0.000000
R32 io_oeb[6] io_oeb[2] short 0.000000
R33 io_oeb[9] io_oeb[19] short 0.000000
R34 io_oeb[9] io_oeb[30] short 0.000000
R35 io_oeb[6] io_oeb[1] short 0.000000
.ends

